US07820825B2
A solution of methyl 4-((1H-indol-3-yl)methyl)benzoate (Tet. Lett. 44 (2003) 4589-4591) (0.50 g, 1.88-mmol) in methanol is treated with an aqueous solution of NaOH (4.15 mL, 1N, 4.15 mmol), heated to reflux temperature for 3 h and concentrated in vacuo. The resultant solid residue is dissolved in H2O and acidified with HCl. The resultant precipitate is removed by filtration and dried to yield 4-((1H-indol-3-yl)methyl)benzoic acid as a white solid, 0.468 g (99%). A microwave vial is charged with PS-Carbodiimide (0.275 g, 1.2 mmol/g, 0.33 mmol). To the vial is added a solution of 4-((1H-indol-3-yl)methyl)-benzoic acid (0.070 g, 0.28 mmol) in CH3CN, a solution of HOBT (0.045 g, 0.33 mmol) in CH3CN, a solution of (S)-1,3′-bipyrrolidine (0.065 g, 0.31 mmol) in CH3CN and 0.11 mL of triethylamine. The reaction mixture is irradiated in the Emry's Optimizer at 110° C. for 6 minutes and then concentrated under reduced pressure. The resultant residue is purified by flash chromatography to yield the title product as a white solid, 0.064 g, (68%), mp 141-153° C., identified by H1 NMR and mass spectral analyses. MS (ES) m/z 372.2.

reactant | methyl 4-((1H-indol-3-yl)methyl)benzoate | 1.88-mmol, 0.50 g | N1C=C(C2=CC=CC=C12)CC1=CC=C(C(=O)OC)C=C1 | C17H15NO2
reactant | NaOH | 4.15 mmol, 1N, 4.15 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-((1H-indol-3-yl)methyl)benzoic acid | N1C=C(C2=CC=CC=C12)CC1=CC=C(C(=O)O)C=C1 | C16H13NO2
